US08754226B2
(S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one (200 mg, 0.42 mmol), trans-cyclohexane-1,2-diamine (20 μL, 0.17 mmol), sodium methanesulfinate (64 mg, 0.63 mmol) was dissolved in DMSO (3 mL) and nitrogen bubbled through for 15 minutes. Cu(I) triflate benzene-complex (21 mg, 0.04 mmol) was added and the reaction was plunged into 110° C. oil bath and stirred under nitrogen overnight. Additional trans-cyclohexane-1,2-diamine (20 μL, 0.17 mmol), sodium methanesulfinate (64 mg, 0.63 mmol) and Cu(I) triflate benzene-complex (21 mg, 0.04 mmol) were added and stirred for another 4 hours at 110° C. The reaction was cooled to ambient temperature, partitioned between water and EtOAc, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (100% EtOAc) to afford (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(2-fluoro-5-methyl-4-(methylsulfonyl)phenoxy)pyrrolidin-2-one (119.8 mg, 0.25 mmol, 60% yield) as a white solid. Mass spectrum (apci) m/z=477.3 (M+H).

reactant | (S)-3-(4-bromo-2-fluoro-5-methylphenoxy)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.42 mmol, 200 mg | BrC1=CC(=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C2=NC=C(C=N2)CC)=O)C=C1C)F | C22H26BrFN4O2
reactant | trans-cyclohexane-1,2-diamine | 0.17 mmol, 20 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | sodium methanesulfinate | 0.63 mmol, 64 mg | CS(=O)[O-].[Na+]
reactant | trans-cyclohexane-1,2-diamine | 0.17 mmol, 20 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | sodium methanesulfinate | 0.63 mmol, 64 mg | CS(=O)[O-].[Na+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | (S)-1-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-3-(2-fluoro-5-methyl-4-(methylsulfonyl)phenoxy)pyrrolidin-2-one | 0.25 mmol, 119.8 mg, 60% yield | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=C1)C)S(=O)(=O)C)F)=O | C23H29FN4O4S
